US07482342B2
N-(4-Phenylaminophenyl)-1H-indazole-3-carboxamide
This compound is synthesized in a manner similar to the procedure described in Example 2 by coupling indazole-3-carboxylic acid and N-phenyl-1,4-phenylenediamine on the scale of 1 mmol, but using dicyclohexylcarbodiimide (DCC) as coupling reagent. The crude product obtained after extraction is taken up in CHCl3. The insoluble matter is filtered and dried.

reactant | indazole-3-carboxylic acid | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | N-phenyl-1,4-phenylenediamine | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | N-(4-Phenylaminophenyl)-1H-indazole-3-carboxamide | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC(=O)C1=NNC2=CC=CC=C12 | C20H16N4O
